US04410699
6-Chloro-2'-phenoxycarbonylspiro[benzofuran-2(3H),4'(2'H)-isoquinoline]
To an ice cold solution of 6-chloro-2'-methylspiro[benzofuran-2(3H),4'(2'H)-isoquinoline] (5.0 g) in dichloromethane (150 ml) is slowly added dropwise phenyl chloroformate (3.7 g) in dichloromethane (20 ml). The mixture is stirred at ambient temperature overnight. Removal of the solvent in vacuo yields an orange oil which solidifies upon trituration with hexane. An analytical sample is twice recrystallized from hexane to yield product as a solid (6.6 g, 99%), mp 138°-140°.

reactant | 6-chloro-2'-methylspiro[benzofuran-2(3H),4'(2'H)-isoquinoline] | 5.0 g | ClC1=CC2=C(CC3(CN(CC4=CC=CC=C34)C)O2)C=C1 | C17H16ClNO
reactant | phenyl chloroformate | 3.7 g | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | hexane | CCCCCC | C6H14
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 6-Chloro-2'-phenoxycarbonylspiro[benzofuran-2(3H),4'(2'H)-isoquinoline] | 6.6 g, 99% | ClC1=CC2=C(CC3(CN(CC4=CC=CC=C34)C(=O)OC3=CC=CC=C3)O2)C=C1 | C23H18ClNO3
